US06667316B1
A mixture of N-{2-[1-(3,4-dimethoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}-2-chloroacetamide (1.3 g, 2.7 mmol), and dimethylamine in tetrahydrofuran (4.5 mL, 2N, 9.0 mmol) in acetonitrile (20 mL) was stirred at room temperature overnight. The solvent was removed in vacuo to give an oil. The oil was stirred in ethanol (5 mL). The resulting suspension was filtered and the solid washed with ethanol to give a yellow solid. To a stirred solution of the solid in ethyl acetate (10 mL) was added hydrogen chloride in ether (3.0 mL, 1N). After 5 min, ether (10 mL) was added. The resulting suspension was filtered and washed with ether to yield N-{2-[1-(3,4-dimethoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}-2-(dimethylamino)acetamide hydrogen chloride as a yellow solid (1.07 g, 74% yield); mp, 178-180° C.; 1H NMR (DMSO-d6) δ2.69 (brs, 6H, 2CH3), 3.02 (s, 3H, CH3), 3.73 (s, 3H, CH3), 3.77 (s, 3H, CH3), 3.88 (brs, 2H, CH2), 4.16 (dd, J=4.2, 14.3 Hz, 1H, CHH), 4.34 (dd, J=10.8, 14.4 Hz, 1H, CHH), 5.79 (dd, J=4.2, 10.4 Hz, 1H, NCH), 6.92-6.97 (m, 2H, Ar), 7.10 (d, J=1.4 Hz, 1H, Ar), 7.65 (d, J=7.2 Hz, 1H, Ar), 7.85 (t, J=7.7 Hz, 1H, Ar), 8.37-8.40 (m, 1H, Ar), 10.15 (s, 1H, HCl), 10.68 (s, 1H, NH); 13C NMR (DMSO-d6) δ41.06, 44.18, 47.31, 52.95, 55.55, 55.59, 59.85, 111.26, 111.65, 119.16, 119.69, 127.00, 129.49, 121.64, 134.99, 136.09, 148.71, 148.76, 166.92, 167.34; Anal Calcd for C23H27N3O7S+1.25 HCl+0.4 H2O: C, 50.94; H, 5.40; N, 7.75; Cl, 8.17; H2O, 1.33. Found: C, 51.30; H, 5.50; N, 7.37; Cl, 8.28; H2O, 1.68.

reactant | N-{2-[1-(3,4-dimethoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}-2-chloroacetamide | 2.7 mmol, 1.3 g | COC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(CCl)=O)=O | C21H21ClN2O7S
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 9.0 mmol, 2N, 4.5 mL | O1CCCC1 | C4H8O
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 1N, 3.0 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | N-{2-[1-(3,4-dimethoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}-2-(dimethylamino)acetamide hydrogen chloride | 1.07 g, 74% yield | Cl.COC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(CN(C)C)=O)=O | InChI=1S/C23H27N3O7S.ClH/c1-25(2)12-20(27)24-16-8-6-7-15-21(16)23(29)26(22(15)28)17(13-34(5,30)31)14-9-10-18(32-3)19(11-14)33-4;/h6-11,17H,12-13H2,1-5H3,(H,24,27);1H
